US06008243
According to the procedure described in Example 1(a), 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid benzyl ester was hydrogenolyzed in EtOH/EtOAc after 6 hours to give in 87% yield 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid as a colorless amorphous solid. 1 1H NMR: δ 7.74 (d, 2H, 8.5 Hz), 7.68 (d, 2H, 8.5 Hz), 7.63 (d, 2H, J=8.5 Hz), 7.45 (d, 2H, J=8.5 Hz), 7.08 (t, 1H, J=2.4 Hz), 6.89-6.83 (m, 1H), 6.29 (t, 1H, J=1.8 Hz), 5.77-5.71 (m, 1H), 4.17 (d, 1H, J=9.2 Hz), 4.06-4.01 (m, 1H), 3.19 (dd, 1H, J=8.6, 16.4 Hz), 2.85 (dd, 1H, J=4.6, 16.4 Hz), 2.78 (d, 3H, J=4.8 Hz), 0.96 (s, 9H). Anal. Calculated for C28H30N4O4.0.25 EtOAc.0.2 C6H14 : C, 68.98; H, 6.67; N, 10.66. Found: C, 68.91; H, 6.79; N, 10.64.

reactant | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C35H36N4O4
solvent | EtOH EtOAc | CCO.CCOC(=O)C
product | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid | 87% yield | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C=C(C=C1)[C@H](CC(=O)O)C(=O)N[C@@H](C(C)(C)C)C(NC)=O | C28H30N4O4
